datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C[C:10](C)=[CH:11][O:12][Si:63](C)(C)C>>C[C:10](C)([CH:11]=[O+:12][Si:63](C)(C)C)[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1=CC=C([S:71]([CH-:10][N+:61]#[C-:62])(=[O:72])=[O:82])C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>CC1=CC=C([S:71]([CH:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)[N+:61]#[C-:62])(=[O:72])=[O:82])C=C1 10=20
"[N:10]1=[CH:11][CH:12]=[C:13]([NH2:14])[CH:62]=[CH:61]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([N:10]1[CH:11]=[CH:12][C:13](=[NH2+:14])[CH:62]=[CH:61]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12,13=11,12;14=13,14"
"C[C:11](C1CC1)=[CH2:10].[CH2:20]=[CH:21][C:22]#[N:23]>>C[C+:11](C1CC1)[CH2:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([S:61]([NH-:10])(=[O:62])=[O:63])C=C1.CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC1=CC=C([S:61]([NH:10][CH:20]([CH:21]=[C:22](C2=[N+](C)C=CN2C)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)(=[O:62])=[O:63])C=C1 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B:11]2[O:12]C(C)(C)C(C)(C)[O:62]2)O1.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B:11]=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C3=CC=CC=C3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)O1 10,11=10,20;12=11,12"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1/[N:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1)[CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[C:10](=[C:11]1/[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72].CN1CC[C:20](=[O:21])CC1>>CN1CC[C:20]([C:10](C)([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])([O-:21])CC1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"C1C[N:12]2CC[S:62][C:11]2=[N:10]1.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N:33](C)[C:22](=[CH:21][CH2:20][N:10]1CC[N+:12]2=[C:11]1[S:62]CC2)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC[O:62][Si:11](C)(C)[H:10].C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CCC[O:62][Si+:11](C)C.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1=CC=C([S:32]([CH-:21][CH2:20][CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11]=[C:10](C)C.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11][C:10](C)(C)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72]>>C1CC[N:21]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"C1=C[C:62]2=[C:63](C=C1)[CH2:64][CH:13]=[CH:12][CH:11]2[H:10].CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>C1=C[C:62]2=[C:63](C=C1)[CH2:64][CH+:13][CH:12]=[CH:11]2.CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([H:10])[C:31](=[O:32])[N:33](C)C)[O-:25] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23,24;24,25=25"
